US04217453
Triethylamine (0.2 mol) is added dropwise to an ice-cold stirred solution of 3-azido-4-(2-trifluoroacetoxyethyl)-azetidin-2-one (0.2 mol) and t-butyldimethylsilyl chloride (0.2 mol) in dimethylformamide (100 ml). The resulting mixture is stirred for 10 min. in the cold and for 10 min at room temperature, and then evaporated under vacuum to remove DMF. The residue is taken up to methylene chloride, washed with water and brine, dried with magnesium sulfate, and evaporated under vacuum to provide N-(t-butyldimethylsilyl)-3-azido 4-(2-trifluoroacetoxyethyl)-azetidin-2-one.

reactant | Triethylamine | 0.2 mol | C(C)N(CC)CC | C6H15N
reactant | 3-azido-4-(2-trifluoroacetoxyethyl)-azetidin-2-one | 0.2 mol | N(=[N+]=[N-])C1C(NC1CCOC(C(F)(F)F)=O)=O | C7H7F3N4O3
reactant | t-butyldimethylsilyl chloride | 0.2 mol | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-(t-butyldimethylsilyl)-3-azido 4-(2-trifluoroacetoxyethyl)-azetidin-2-one | [Si](C)(C)(C(C)(C)C)N1C(C(C1CCOC(C(F)(F)F)=O)N=[N+]=[N-])=O | C13H21F3N4O3Si
